US07135470B2
A mixture of 2-(4-fluoro-phenyl)-4-oxo-4,5-dihydro-thieno[2,3-d]pyridazine-7-carboxylic acid ethyl ester (0.2 g, mmol) in phosphorous oxychloride (3 mL) was heated at 90° C. for 3 hours, cooled and evaporated to dryness. To the residue was added ice and ethyl acetate and then basified over potassium carbonate solid. The organic layer was separeted, washed with water, brine and dried over sodium sulfate. The organic layer was evaporated to dryness and the residue was purified by flash chromatography (silica gel, 5% acetone/hexane) to obtain 4-chloro-2-(4-fluorophenyl)-thieno[2,3-d]pyridazine-7-carboxylic acid ethyl ester as a solid (0.12 g). MS: m/z=338 (M+1).

reactant | 2-(4-fluoro-phenyl)-4-oxo-4,5-dihydro-thieno[2,3-d]pyridazine-7-carboxylic acid ethyl ester | 0.2 g | C(C)OC(=O)C1=NNC(C2=C1SC(=C2)C2=CC=C(C=C2)F)=O | C15H11FN2O3S
reactant | phosphorous oxychloride | 3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(4-fluorophenyl)-thieno[2,3-d]pyridazine-7-carboxylic acid ethyl ester | 0.12 g | C(C)OC(=O)C=1N=NC(=C2C1SC(=C2)C2=CC=C(C=C2)F)Cl | C15H10ClFN2O2S
